US04608385
Triethylamine (1 g) and isopropyl mercaptan (0.8 g) were dissolved in toluene (20 ml). To the resultant solution was dropwise added 3,4-diethoxyphenyl isocyanate (2.1 g) in 5 minutes under ice-cooling. After being allowed to stand at room temperature for 12 hours, the reaction mixture was poured into ice-water and extracted with toluene. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using toluene as the eluent to give isopropyl N-(3,4-diethoxyphenyl)thiolcarbamate (Compound No. 88) (2.7 g) in a yield of 95%. M.P., 110°-111° C.

reactant | Triethylamine | 1 g | C(C)N(CC)CC | C6H15N
reactant | isopropyl mercaptan | 0.8 g | C(C)(C)S | C3H8S
reactant | 3,4-diethoxyphenyl isocyanate | 2.1 g | C(C)OC=1C=C(C=CC1OCC)N=C=O | C11H13NO3
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | isopropyl N-(3,4-diethoxyphenyl)thiolcarbamate | yield of 95% | C(C)OC=1C=C(C=CC1OCC)N(C(=O)OC(C)C)C=1SC=CC1 | C18H23NO4S
